US05232923
To a suspension of 0.98 g of lithium aluminum hydride in 50 ml of dried tetrahydrofuran (THF), a solution of 3 g of N-acetylhomoveratrylamin in 25 ml of THF was added dropwise with stirring. After heating for 3 hours under reflux, the reaction mixture was cooled with ice and gradually added dropwise under violent stirring with a solvent mixture composed of 10 ml of water and 10 ml of THF. Insoluble matter was filtered off and the filtrate was concentrated. The residue obtained was dissolved in 50 ml of ethyl acetate, washed twice with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, N-ethyl-homoveratrylamine was obtained as oily product. The yield was 2.3 g.

reactant | lithium aluminum hydride | 0.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-acetylhomoveratrylamin | 3 g | C(C)(=O)NCCC1=CC(OC)=C(OC)C=C1 | C12H17NO3
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 ml | O1CCCC1 | C4H8O
product | N-ethyl-homoveratrylamine | C(C)NCCC1=CC(OC)=C(OC)C=C1 | C12H19NO2
